US05070087
A solution of 4.18 g (0.02 mole) of ethyl p-nitrophenylacetate in 200 mL of ethanol is subjected to catalytic hydrogenation. The mixture is filtered to remove the catalyst and the filtrate is concentrated to obtain quantitative yield of ethyl 4-aminophenylacetate. To an agitated solution of the ethyl 4-aminophenylacetate and 2.02 g (0.02 mole) of triethylamine in 50 ml of dimethylformamide is added dropwise a solution of 7.58 g (0.020 mole) of 1-(3-chloropropyl)-α,α-bis(4-fluorophenyl)-4-piperidinemethanol in 20 ml of dimethylformamide. After stirring at ambient temperature for 4 hr the reaction mixture is heated at 70° C. for 4 hr. The reaction mixture is concentrated and the crude product partitioned between methylene chloride and water. The methylene chloride solution is washed with water, dried over anhydrous magnesium sulfate, and concentrated to yield the title compound.

reactant | ethyl p-nitrophenylacetate | 0.02 mole, 4.18 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)OCC | C10H11NO4
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 4-aminophenylacetate | quantitative yield | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
